* C:\Users\pavel\OneDrive\Desktop\RLC metr\RLC_idealopamp.asc
V1 N002 0 SINE(0 1.6 50k)
R1 Lout Lt2 {Rg1}
XU1 N002 N001 5v -5v N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 0 Lt2 5v -5v Lout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 5v 0 5
V3 -5v 0 -5
R2 Cout Ct2 {Rg2}
XU3 0 Ct2 5v -5v Cout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C2 Ct2 Ct1 {Ctest} Rser=0.1 Lser=0.1p
I1 0 0 ac
L2 Lt2 Lt1 {Ltest} Ipk=5 Rser=15.1m Cpar=0.5p
R3 Lt1 N001 {Rg1}
R4 Ct1 N001 {Rg2}
R5 Rout Rt2 {Rg3}
XU4 0 Rt2 5v -5v Rout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 Rt1 N001 {Rg3}
R7 Rt2 Rt1 {Rtest}
XU5 N004 N003 5v -5v Diff level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N003 Rt1 400
R9 N004 Rt2 400
R10 Diff N003 400
.tran 0 0.001 0.0001
;ac dec 0.01 5 5000000000
.param Rg1 100
.param Rg2 100
.param Rg3 100
.step param Ltest 100u 500u 100u
.param Ctest {Ltest/10e3}
.param Rtest {Ltest*10e5}
.lib UniversalOpAmp1.lib
.backanno
.end
